US08937195B2
Under a nitrogen atmosphere, to a diethyl ether solution (70 mL) of dichloro(3,5-di-tert-butylphenyl)(phenyl)silane (7.00 g, 19.16 mmol), a solution of 3,5-dimethylphenyllithium (2.15 g, 19.16 mmol) dissolved in diethyl ether (22 mL) was added dropwise at −20° C. After the mixture was gradually warmed to room temperature, stirring was performed at room temperature. 3,5-Dimethylphenyllithium (1.26 g, 11.24 mmol) was added and further stirred at room temperature. After completion of the reaction, the solvent was removed under reduced pressure. Thereafter, hexane was added to the residue, and insoluble materials were removed by filtration. The solvent was removed from the filtrate under reduced pressure to obtain chloro(3,5-di-tert-butylphenyl)(3,5-dimethylphenyl)(phenyl)silane (7.21 g, yield 86.5%) as yellow oil.

reactant | dichloro(3,5-di-tert-butylphenyl)(phenyl)silane | 19.16 mmol, 7.00 g | Cl[Si](C1=CC=CC=C1)(C1=CC(=CC(=C1)C(C)(C)C)C(C)(C)C)Cl | C20H26Cl2Si
reactant | 3,5-dimethylphenyllithium | 19.16 mmol, 2.15 g | CC=1C=C(C=C(C1)C)[Li]
reactant | 3,5-Dimethylphenyllithium | 11.24 mmol, 1.26 g | CC=1C=C(C=C(C1)C)[Li]
solvent | diethyl ether | 22 mL | C(C)OCC | C4H10O
solvent | diethyl ether | 70 mL | C(C)OCC | C4H10O
product | chloro(3,5-di-tert-butylphenyl)(3,5-dimethylphenyl)(phenyl)silane | 7.21 g, yield 86.5% | Cl[Si](C1=CC=CC=C1)(C1=CC(=CC(=C1)C)C)C1=CC(=CC(=C1)C(C)(C)C)C(C)(C)C | C28H35ClSi
